US09062070B2
n-BuLi (17.0 mL, 42.5 mmol) was added dropwise to the solution of NH(i-Pr)2 (4.50 g, 44.5 mmol) in 70 mL of THF at −70° C. The mixture was stirred at 0° C. for 15 minutes and then cooled to −70° C. again. The solution of 1-bromo-3-fluoro-2-methoxybenzene (8.30 g, 40.5 mmol, in 30 mL of THF) was added dropwise. The resulting mixture was stirred at −70° C. for 1 hour then poured into fresh dry ice and stirred overnight. The mixture was diluted with 1 L of ether and washed with water twice. The combined water layer was washed with ether then acidified to pH=2 with hydrochloric acid and extracted with EtOAc twice. The combined EtOAc layer was washed with brine, dried over anhydrous Na2SO4 and concentrated to give 4-bromo-2-fluoro-3-methoxybenzoic acid.

reactant | n-BuLi | 42.5 mmol, 17.0 mL | [Li]CCCC
reactant | NH(i-Pr)2 | 44.5 mmol, 4.50 g | N(C(C)C)C(C)C | C6H15N
reactant | 1-bromo-3-fluoro-2-methoxybenzene | 40.5 mmol, 30 mL, 8.30 g | BrC1=C(C(=CC=C1)F)OC | C7H6BrFO
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | ether | 1 L | CCOCC | C4H10O
product | 4-bromo-2-fluoro-3-methoxybenzoic acid | BrC1=C(C(=C(C(=O)O)C=C1)F)OC | C8H6BrFO3
